### PR TITLE
lemmas for reasoning about "rot n (rot m s)"

### PR DESCRIPTION
**Pull request by chdoc**
##### Motivation for this change

This is an attempt at easing the reasoning about compositions of the form `rot n (rot m s)`, where one does not have bounds on `n` and `m`, making `rotD` and `rot_add_mod` awkward to use. This is used in the formalization of subcycles (i.e., subsequences up to rotation). 

I'm reasonably sure that the names I chose are not optimal, so I'd be happy for feedback, I'll add the `CHANGELOG` entries once the names are decided upon. 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -1855,15 +1855,34 @@ move=> Hn Hm; case: leqP => [/rotD // | /ltnW Hmn]; symmetry.
...
+   else minn m (size s) + minn n (size s) - size s).
+
+Lemma leq_rot_sum n m s : rot_sum s n m <= size s.
+Proof. 
+unlock rot_sum; case:ifP => // _; rewrite -subnBA // ?geq_minr //.
+by rewrite -[X in _ <= X]subn0 leq_sub // geq_minr.
+Qed.
+
+Lemma rot_rot_sum n m s : rot m (rot n s) = rot (rot_sum s n m) s.
+Proof.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:1875]:
```suggestion
Proof.
```

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -1855,15 +1855,34 @@ move=> Hn Hm; case: leqP => [/rotD // | /ltnW Hmn]; symmetry.
...
+Qed.
+
+Lemma rot_sumC n m s : rot_sum s n m = rot_sum s m n.
+Proof. by unlock rot_sum; rewrite ![minn n _ + _]addnC. Qed.
+
+Lemma rot_rot m n s : rot m (rot n s) = rot n (rot m s).
+Proof. by rewrite rot_rot_sum rot_sumC -rot_rot_sum. Qed.
+
 Lemma rot_rotr m n s : rot m (rotr n s) = rotr n (rot m s).
 Proof. by rewrite {2}/rotr size_rot rot_rot. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:1887]: Not from this PR, but:
```suggestion
Proof. by rewrite [RHS]/rotr size_rot rot_rot. Qed.
```

File: mathcomp/ssreflect/seq.v [hunk 3]
```diff
@@ -1855,15 +1855,34 @@ move=> Hn Hm; case: leqP => [/rotD // | /ltnW Hmn]; symmetry.
...
 
+Definition rot_sum s n m := locked
+  (if minn m (size s) + minn n (size s) <= size s
+   then minn m (size s) + minn n (size s)
+   else minn m (size s) + minn n (size s) - size s).
+
+Lemma leq_rot_sum n m s : rot_sum s n m <= size s.
+Proof. 
+unlock rot_sum; case:ifP => // _; rewrite -subnBA // ?geq_minr //.
+by rewrite -[X in _ <= X]subn0 leq_sub // geq_minr.
```
[the remark this answers is not in the document]
Comment (chdoc) [reply mathcomp/ssreflect/seq.v:1871]: Nice!

File: mathcomp/ssreflect/seq.v [hunk 4]
```diff
@@ -1855,17 +1855,35 @@ move=> Hn Hm; case: leqP => [/rotD // | /ltnW Hmn]; symmetry.
...
-Lemma rot_rot m n s : rot m (rot n s) = rot n (rot m s).
+Lemma rot_minn n s : rot n s = rot (minn n (size s)) s.
+Proof.
+by case: (leqP n (size s)) => // /leqW ?; rewrite rot_size rot_oversize.
+Qed.
+
+Definition rot_sum s n m := locked
+  (if minn m (size s) + minn n (size s) <= size s
+   then minn m (size s) + minn n (size s)
+   else minn m (size s) + minn n (size s) - size s).
```
[the remark this answers is not in the document]
Comment (chdoc) [reply mathcomp/ssreflect/seq.v:1866]: Well, the use case is any kind of reasoning where one want's to gather `rot n (rot m s)` into `rot k s` for some `k <= size s` without imposing any bounds on `n` and `m`. Just compare the old proof of `rot_rot` (which in the GitHub diff looks like an old proof of `leq_rot_sum`) with the new one-line proof. Nobody should look at the definition of `rot_sum`, but it can be handy to know that such a number exists. Having it as a definition, rather than as a lemma, allows for useful rewrite rules such as `rot_rot_sum`.

Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:1866]:
```suggestion
Definition rot_add s n m (k := size s) (p := minn m k + minn n k) :=
  locked (if p <= k then p else p - k).
```
or else
```suggestion
Definition rot_add s n m (k := size s) (p := minn m k + minn n k) := locked (p - (p <= k) * k).
```

Comment (chdoc) [reply mathcomp/ssreflect/seq.v]: Common sub-expression elimination FTW :+1: 

I opted for the first one, because I am not a big fan of booleans in arithmetic expressions.

File: mathcomp/ssreflect/seq.v (hunk 2 above)
Comment (pi8027) [reply mathcomp/ssreflect/seq.v:1885]: @chdoc It seems that you reverted my suggestions.

Comment (chdoc) [reply mathcomp/ssreflect/seq.v]: @pi8027 yes, sorry about that. Should be fixed now.

**Review by pi8027 — APPROVED** [review]
LGTM. If @CohenCyril agrees, I will merge it.

**Review by CohenCyril — APPROVED** [review]
